US08865712B2
k) 5-(6-Bromo-pyridin-2-yl)-5-fluoromethyl-morpholin-3-one
To a solution of 5-(6-bromo-pyridin-2-yl)-5-hydroxymethyl-morpholin-3-one (2.8 g, 9.756 mmol) in dry THF (30 ml), diethylamino sulfur trifluoride (4.72 g, 29.268 mmol) was added at rt and stirring continued for 4 h. Na2CO3 was then added to the resultant reaction mixture and stirred for further 30 min. The reaction mixture was concentrated under reduced pressure and the product was extracted with ethyl acetate. Organic layer was washed with brine, dried over anhy. Na2SO4 and concentrated under reduced pressure to obtain crude compound as gummy residue. Purification of the crude product with 45% ethyl acetate in hexane solvent system furnished the title compound as off-white solid. Yield=1.15 g (40%). TLC (70% ethyl acetate in hexane) Rf=0.49; LCMS: RtH7=0.383, [M+1]+=289 and 289; HPLC RtH9=3.27 min (84%); 1H NMR (400 MHz, CDCl3): δ 7.62 (t, 1H), 7.49 (dd, 1H), 7.32 (d, 1H), 7.09 (br. s, 1H), 4.92 (dd, 1H), 4.52 (dd, 1H), 4.32-4.17 (m, 3H), 3.98-3.93 (dd, 1H); 19F NMR (376.2 MHz): 6-255.65 (t, 1F).

reactant | 5-(6-bromo-pyridin-2-yl)-5-hydroxymethyl-morpholin-3-one | 9.756 mmol, 2.8 g | BrC1=CC=CC(=N1)C1(COCC(N1)=O)CO | C10H11BrN2O3
reactant | diethylamino sulfur trifluoride | 29.268 mmol, 4.72 g | C(C)N(CC)S(F)(F)F | C4H10F3NS
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | 5-(6-Bromo-pyridin-2-yl)-5-fluoromethyl-morpholin-3-one | BrC1=CC=CC(=N1)C1(COCC(N1)=O)CF | C10H10BrFN2O2
